US05541186
6.15 g of isonicotinic acid and 5.55 g of triethylamine were dissolved in 50 ml of acetone. 6 g of ethyl chloroformate were added dropwise to this solution which had been cooled to -10° C. After 2 hours a solution of 5 g of NaN3 dissolved in 20 ml of H2O was added dropwise at 0° C. After 1 hour at room temperature the solid was filtered off and discarded. The solution was distilled at room temperature and the residue was extracted with dichloromethane. After drying over MgSO4 the solvent was distilled off and the liquid remaining behind was filtered over silica gel with dichloromethane as the eluent. There was obtained 4-pyridylcarboxylic acid azide as a colorless liquid which crystallized in a deep freezer (-18° C.). IR: 2141, 2190 cm-1 (N3).

reactant | isonicotinic acid | 6.15 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | triethylamine | 5.55 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 6 g | ClC(=O)OCC | C3H5ClO2
reactant | NaN3 | 5 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | H2O | 20 ml | O | H2O
product | 4-pyridylcarboxylic acid azide | N1=CC=C(C=C1)C(=O)N=[N+]=[N-] | C6H4N4O
